US08835472B2
1-Iodo-4-isobutoxybenzene
3.0 g (13.64 mmol) 4-iodophenol, 1.6 mL (15.00 mmol) 1-bromo-2-methylpropane and 7.5 g (54.54 mmol) K2CO3 are added to 30 mL DMF and stirred at 80° C. for 4 h. Afterwards the reaction mixture is diluted with water and extracted with EtOAc. The organic layer is washed with diluted aq. NaOH (2×) and water (2×), dried with MgSO4 and the solvent is removed in vacuo. The crude product is used without further purification.

reactant | 4-iodophenol | 13.64 mmol, 3.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1-bromo-2-methylpropane | 15.00 mmol, 1.6 mL | BrCC(C)C | C4H9Br
reactant | K2CO3 | 54.54 mmol, 7.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Iodo-4-isobutoxybenzene | IC1=CC=C(C=C1)OCC(C)C | C10H13IO
